Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Adhesive Tape / Tegretol
 
Attending: ___.
 
Chief Complaint:
3 days of memory loss, confusion

 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
HPI: The pt is a ___ ___ female h/o MI s/p
stents, possible seizure disorder on Lamictal, PTSD,
anxiety/depression who presents with an episode of 3 days of
memory loss and strange behavior.  The patient reports that she
does not have any recollection of the events since last
___.  She was initially sent to ___ by her
husband who had decided that her symptoms had continued for two
long and there was a fear of seizures.  The patient was then
transferred to ___ as she has received some of her seizure 
care
here in the past (and has had a prior admission for LTM).

The patient has no recollection of the events.  She was very
upset when relating the story and could not remember when she
started to become amnestic.  On speaking with her husband, he
noted that when she woke up ___ she seemed very confused
and was not acted appropriately.  She at one point got out of 
bed
and started scolding her daughter about what time she came home,
and repeatedly questioning her.  Later in the day she had no
recollection of these events.  He also noted that she kept 
asking
questions over and over again, some of the questions were
orientation based"is it morning?" or "what day is it?"  But 
other
questions were nonsensical like "do we own a trailer?" (they 
do).
She appeared at all times to know who she was and where she was. 

She also had moments of clarity throughout this course, she
apparently spoke with her doctor on the phone yesterday, and per
the husband the conversation was appropriate and she seemed to
remember some of the details briefly.  He also noted that at
night she did not seem to be as confused, although she would
awaken in the morning with the same symptoms.  He noted
everything else appeared normal.  She did not have any focal
motor symptoms, she was able to walk and talk.  Her speech was
not slurred.  She was able to do complex motor tasks and talk
with people.  On ___ the patient was informed that this had
been going on four 3 days and she became upset and was taken to
___.
  

The husband notes that there were some recent stressors.  He is
redoing two rooms for the holidays and there has been a great
deal of dust and mess recently.  The patient was complaining
about this and the need to clean it up recently.  The husband 
has
been out of work since ___ and has a recent knee injury which
makes it difficult to attend to his wife.  He also had a near
drowning in ___ of this year.

Per the husband except for the last three days she had been 
fully
compliant with medication.

Patient reports first onset of seizures was ___ years prior.  She
had a grad mal seizure out of sleep.  As described the patient
had loss of consciousness and her husband was awoken by the bed
shaking, after this incident she was noted to have bite marks on
her tongue.  

Her main seizure types are as follows: episodes where she starts
with an aura ___, begins to sweat and breathe heavily, 
and
then has difficulty concentrating for ___ minutes, there is
some confusion afterward, sometimes sleepiness lasting the rest
of the day.  These episodes occur with varying frequency, and
seem to be more common during times of stress, near her 
menstrual
period and after smoking marijuana. 

She has one other type of episode recently. She recalls this
episode as being a "big giant".  She lay down and then had loss
of consciousness for about a minute was amnestic, although per
her husband she did not appear to have loss of consciousness. 
However he noted her head turned to the left and her gaze turned
to the left.  About a minute later then started to regain
awareness and from this point onwards recalls the events. He
described as having had dysarthric speech and being rather
disoriented.  She also has difficulty with her gait. 

She has only noted the single convulsive seizure, and has
primarily had the other type of seizure since that time with the
exception of the one listed above.

Of note the patient was admitted for LTM in ___ with an 
increase
in her seizure type reported below (dejva ___, heavy breathing,
confusion).  She had LTM and a change of medication on that
admission.  The EEG monitoring did not show any seizure activity
and did not show any correlate to her episodes.  An ___
spect was obtained at the time showed decreased activity in the
medial portion of the right temporal lobe.  Although the finding
was considered suggestive of an epileptic focus, telemetry 
failed
to show any focal slowing or epileptiform activity throughout 
the
hospitalization. She was tapered off her Dilantin and Topamax,
and was sent home to taper off her Klonopin at which time her
Lamictal was therapeutic.

She had a repeat office visit with Dr. ___ in ___, where
she was on 150mg of Lamictal a day.  It was determined that this
was an appropriate dose given the lack of EEG findings on the
last admission. It was thought that many of these symptoms may 
be
anxiety related and focusing on treatment of her underlying
anxiety may help.  However the patient did not agree with this
assessment and was upset at the time.

Birth History: Normal ___ course as known, was a breech
birth.  Normal childhood development.  In a MVA in early
___, unrestrained driver, hit head on the windshield, no
loss of consciousness however

Known triggers of events: stress, sleep deprivation, marijuana
use, increased frequency around menstrual period 

On neuro ROS, the pt endorsed a mild headache, no loss of 
vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel incontinence or retention.  She
has stress incontinence at baseline. Denies difficulty with 
gait.
 
On general review of systems, she has had some mild
lightheadedness and nausea.  The pt denies recent fever or
chills.  No night sweats or recent weight loss (besides a 
planned
15lb weight loss - on cardiac diet) or gain. Denies cough,
shortness of breath.  Denies chest pain or tightness,
palpitations.  No vomiting, diarrhea, constipation or abdominal
pain.  No recent change in bowel or bladder habits.  No dysuria. 

Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- MI in ___ with bare metal stent placement
- Hypothyroidism
- PTSD and panic disorder (requiring at least 14 psychiatric
hospitalizations)
- Depression
- Anxiety
- R breast lump removal
- Tubal ligation
- Tonsillectomy
 
Social History:
___
Family History:
Family Hx:  Apparently sister has similar episodes, has never 
had
treatment (no obvious convulsive seizures).  Mother died of
dementia complication by PNA in her ___.  Biological father is
unknown. 

 
Physical Exam:
Physical Exam: 
Vitals: T:  P:  R: 16  BP:  SaO2: 
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted. 
 
Neurologic: 
-Mental Status: Alert, oriented x 3. (but would intermittently
forget the date, when i first asked her she was able to relate 
it
without difficulty, then would look at the calendar and say "i
can't believe it's ___  Attentive, able to name ___
backward (one error skipped ___, but did it rapidly)  
Language is fluent with intact repetition and comprehension. 
Normal prosody.  There were no paraphasic errors.  Pt. was able
to name both high and low frequency objects.  Able to read
without difficulty.  Speech was not dysarthric. Able to follow
both midline and appendicular commands. Patient could
intermittently remember ___ objects when asked, she repeated
apple, table, ___ at one second, at three seconds said apple
table potato.   There was no evidence of apraxia or neglect. 

-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to ___ bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis
noted. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5 
 
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  2  2    2    2   1 
Plantar response was flexor bilaterally. 
She had crossed adductors
 
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. 
 
-Gait: Good initiation. ___, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent. Occasional lurches as if she was going to fall.
 

 
Pertinent Results:
___ 12:00AM   ___ 
___
___ 06:10PM BLOOD ___ LD(LDH)-126 ___ 
___
___ 06:10PM BLOOD ___
___ 06:10PM BLOOD ___
___ 12:00AM BLOOD ___ 
___
___ 06:10AM BLOOD LAMOTRIGINE: LAMOTRIGINE 4.1 ___ 
mcg/mL)
    
 
Brief Hospital Course:
During her admission, she was evaluated with continuous 
___ monitoring and telemetry.  She had no seizures or 
events. EEG showed no elecrographic seizures,but it is possible 
that she had seizures prior to admission.  She now feels that 
her symptoms may have been at least in part secondary to stress 
(friend of her son recently shot, stresses in family).  She was 
followed by psychiatry who recommended continuing her on 
Seroquel.  Seroquel has been very helpful.  Her memory has 
improved, and she was discharged at her baseline. At discharge, 
her Lamictal was increased to 150mg twice daily.

 
Medications on Admission:
ASA 325 qd
Synthroid ___ qd
Klonopin 1mg BID
Seroquel 25mg 4pm / 150 qhs
Citalopram 60mg qhs
Lamictal 100mg BID
Lipitor 40mg daily
Lorazepam 1mg qhs PRN

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. Lamotrigine 150 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*
5. Citalopram 20 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
6. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Quetiapine 100 mg Tablet Sig: 1.5 Tablets PO HS (at bedtime). 
 
8. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO Once Daily at 
4 ___.  
9. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours as needed for anxiety.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Amnestic episode

 
Discharge Condition:
Patient has normal neurologic exam, with normal mental status 
and normal ambulation.

 
Discharge Instructions:
You were admitted after having 3 days of memory loss. You were 
evaluated with video EEG monitoring.  EEG did not show evidence 
for seizures.  Your lamictal dose is increased to 150 mg BID.  
Please ___ with your neurologists as listed below.  Please 
___ with your psychiatrist as scheduled.

Please take all medications as prescribed.

Please take medications as prescribed. 
 
Followup Instructions:
___